US07709471B2
N-methyl-3-(propan-2-ylamino)propanamide
Isopropylamine (Aldrich; 1.5 ml, 17.62 mmol) and methyl acrylamide (ABCR; 1.0 g, 11.75 mmol) were combined in methanol (10 ml). The mixture was heated in a microwave at 140° C. for 30 min. The reaction was repeated and the combined reaction mixtures were concentrated to remove excess amine. The residue was re-dissolved in methanol and absorbed onto an SCX column (50 g), washed with methanol and eluted with ammonia/methanol. Concentration of the product containing fractions gave the title compound as a colourless oil (3.2 g, 94%).

reactant | Isopropylamine | 17.62 mmol, 1.5 ml | C(C)(C)N | C3H9N
reactant | methyl acrylamide | 11.75 mmol, 1.0 g | CC(C(=O)N)=C | C4H7NO
reactant | methanol | 10 ml | CO | CH4O
product | N-methyl-3-(propan-2-ylamino)propanamide | 3.2 g, 94% | CNC(CCNC(C)C)=O | C7H16N2O
